US04324790
A mixture of 8 g of 3-[1,2,3,6-tetrahydro-4-pyridinyl]-5-chloro-1H-indole [described in French Pat. No. 2,362,628], 80 ml of dimethylformamide, 7.5 g of potassium carbonate and 9 g of β-bromo-phenethanol was stirred at 50° C. under an inert atmosphere for 2 hours and was then cooled to room temperature and was slowly diluted with 400 ml of distilled water. The mixture was stirred for 30 minutes and was vacuum filtered. The recovered product was washed with water, then with a 1-1 water-ethanol mixture and dried to obtain 14 g of raw product. 15.8 g of the said product were chromatographed over silica gel and eluted with a 6-3-1 chloroform-acetone-triethylamine mixture. The product was crystallized from ethanol to obtain 11.53 g of 3-[1-(2-phenoxyethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-chloro-1H-indole melting at 172° C.

reactant | 3-[1,2,3,6-tetrahydro-4-pyridinyl]-5-chloro-1H-indole | 8 g | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)Cl | C13H13ClN2
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 ml | O | H2O
product | 3-[1-(2-phenoxyethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-5-chloro-1H-indole | 11.53 g | O(C1=CC=CC=C1)CCN1CCC(=CC1)C1=CNC2=CC=C(C=C12)Cl | C21H21ClN2O
